US09328096B2
Methyl 2-chloro-5-(6-(2,2-difluorovinyl)pyridin-2-yl)benzoate
To a solution of methyl 2-chloro-5-(6-formylpyridin-2-yl)benzoate (Preparation 39, 302 mg, 1.10 mmol) in DMF (5.5 mL) was added sodium chlorodifluoroacetate (250 mg, 1.64 mmol) and triphenylphosphine (435 mg, 1.64 mmol) and heated to 120° C. for 40 minutes followed by cooling to room temperature for 2 hours. The reaction was concentrated in vacuo and partitioned between water and EtOAc. The aqueous layer was washed with EtOAc (2×10 mL) and the organic layers combined, washed with brine, dried over sodium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 0-20% EtOAc in heptanes to afford the title compound.

reactant | methyl 2-chloro-5-(6-formylpyridin-2-yl)benzoate | 1.10 mmol, 302 mg | ClC1=C(C(=O)OC)C=C(C=C1)C1=NC(=CC=C1)C=O | C14H10ClNO3
reactant | sodium chlorodifluoroacetate | 1.64 mmol, 250 mg | ClC(C(=O)[O-])(F)F.[Na+]
reactant | triphenylphosphine | 1.64 mmol, 435 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 5.5 mL | CN(C)C=O | C3H7NO
product | Methyl 2-chloro-5-(6-(2,2-difluorovinyl)pyridin-2-yl)benzoate | ClC1=C(C(=O)OC)C=C(C=C1)C1=NC(=CC=C1)C=C(F)F | C15H10ClF2NO2
